US06407101B1
A solution of 4-nitro-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile (0.4 g, 1.28 mmol) in ethanol/water (5:1, 20 mL) was treated sequentially with zinc powder (2.5 wt, 1.0 g) and ammonium chloride (5 wt, 2.0 g). The suspension was heated at 80° C. or 30 min, cooled to room temperature, poured into water (30 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layer was washed with brine, dried over MgSO4 and purified by flash column chromatography on silica gel eluting with ethyl acetate to give 4-amino-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile (0.29 g, 80%) as a yellow solid. 1H NMR (500 MHz, d6-DMSO) δ1.63 (s, 6H), 4.29 (s, 2H), 6.39 (s, 1H), 6.89 (d, 1H, J=8.1 Hz), 7.49 (s, 1H), 7.52 (dd, 1H, J=8.1 and 2.3 Hz), 10.25 (s, 1H), 11.76 (s, 1H). MS (ESI (−)) m/z 281 (M−H)−. Anal. calcd for C15H14N4O2, C, 63.8; H, 5.00; N, 19.9. Found: C, 63.7; H, 5.10; N, 19.82

reactant | 4-nitro-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile | 1.28 mmol, 0.4 g | [N+](=O)([O-])C=1C=C(NC1C=1C=CC2=C(C(OC(N2)=O)(C)C)C1)C#N | C15H12N4O4
reactant | ammonium chloride | 2.0 g | [Cl-].[NH4+]
reactant | water | 30 mL | O | H2O
solvent | ethanol water | 20 mL | C(C)O.O
catalyst | zinc | 1.0 g | [Zn] | Zn
product | 4-amino-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1H-pyrrole-2-carbonitrile | 0.29 g, 80% | NC=1C=C(NC1C=1C=CC2=C(C(OC(N2)=O)(C)C)C1)C#N | C15H14N4O2
